US07211684B2
a) Benzhydryl Acetate
108.3 g (1.05 mol; 1.05 eq) of acetic anhydride are diluted in 370 ml of dichloromethane at 20° C. The solution obtained is cooled to 0±2° C. before introducing 2.8 ml of a 96% sulphuric acid solution in a time of about 10 minutes. After stirring for about 10 minutes, 184.2 g (1 mol, 1 eq) of benzhydrol are introduced in portions at 0° C.±2° C. in 60±15 minutes. The reaction medium is maintained in contact for 2 hours at this temperature.

reactant | acetic anhydride | 1.05 mol, 108.3 g, 1.05 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | benzhydrol | 1 mol, 184.2 g, 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
solvent | dichloromethane | 370 ml | ClCCl | CH2Cl2
product | Benzhydryl Acetate | C(C)(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H14O2
